US08557834B2
N-[(1-Cyclohexyl-3-{[4-fluoro-2-(trifluoromethyl)phenyl]methyl}-6-hydroxy-2,4-dioxo-1,2,3,4-tetrahydro-5-pyrimidinyl)carbonyl]glycine
A mixture of ethyl N-[(1-cyclohexyl-6-hydroxy-2,4-dioxo-1,2,3,4-tetrahydro-5-pyrimidinyl)carbonyl]glycinate (340 mg, 1.0 mmoles), pulv. potassium carbonate (750 mg, 5.35 mmoles) and 4-fluoro-2-trifluoromethylbenzyl bromide (455 mg, 1.77 mmoles) in dimethylacetamide (6 mL) was vigorously stirred at 100° C. for 3 hours. The mixture was poured into 1 molar hydrochloric acid and extracted with ethyl acetate (×2). The combined organic solutions were washed with 1 molar hydrochloric acid and evaporated. The residue was purified by flash chromatography (10-50% ethyl acetate in hexane), the required fractions evaporated, dissolved in ethanol (5 mL) and 1 molar sodium hydroxide solution (3.0 mL) added. The mixture was stirred overnight, acidified and extracted with ethyl acetate (×2), the combined extracts washed with 1 molar hydrochloric acid, dried and evaporated. Recrystallization from hexane gave the title compound (184 mg, 38%). 1H NMR (400 MHz, DMSO-d6) δ ppm 13.10 (br. s., 1 H), 10.11 (br. s., 1 H), 7.67 (dd, J=9.09, 2.78 Hz, 1 H), 7.45 (ddd, J=8.40, 2.65 Hz, 1 H), 7.29 (dd, J=8.59, 5.31 Hz, 1 H), 5.13 (s, 2 H), 4.64 (t, J=12.00 Hz, 1 H), 4.13 (d, J=5.81 Hz, 2 H), 2.24 (q, 2 H), 1.78 (d, J=12.63 Hz, 2 H), 1.53-1.73 (m, 3 H), 1.28 (q, J=12.72 Hz, 2 H), 1.10 (q, J=12.63 Hz, 1 H)

reactant | ethyl N-[(1-cyclohexyl-6-hydroxy-2,4-dioxo-1,2,3,4-tetrahydro-5-pyrimidinyl)carbonyl]glycinate | 1.0 mmoles, 340 mg | C1(CCCCC1)N1C(NC(C(=C1O)C(=O)NCC(=O)OCC)=O)=O | C15H21N3O6
reactant | potassium carbonate | 5.35 mmoles, 750 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-fluoro-2-trifluoromethylbenzyl bromide | 1.77 mmoles, 455 mg | FC1=CC(=C(CBr)C=C1)C(F)(F)F | C8H5BrF4
reactant | hydrochloric acid | 1 molar | Cl | ClH
solvent | dimethylacetamide | 6 mL | CC(=O)N(C)C | C4H9NO
product | N-[(1-Cyclohexyl-3-{[4-fluoro-2-(trifluoromethyl)phenyl]methyl}-6-hydroxy-2,4-dioxo-1,2,3,4-tetrahydro-5-pyrimidinyl)carbonyl]glycine | 184 mg, 38% | C1(CCCCC1)N1C(N(C(C(=C1O)C(=O)NCC(=O)O)=O)CC1=C(C=C(C=C1)F)C(F)(F)F)=O | C21H21F4N3O6
